US06255333B1
3-Cyano-5-di-(t-butoxycarbonyl)amino-1-(2,6-dichloro-4-trifluoromethlphenyl)-4-ethynyipyrazole
To a solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-ethynylpyrazole (1.3 g, the compound of Example A3) in dimethylformamide (4 ml) and triethylamine (20 ml) was added di-t-butyldicarbonate (0.9 g) and 4-dimethylaminopyridine (5 mg) and the mixture was stirred at room temperature for sixteen hours. Di-t-butyldicarbonate (0.45 g) was then added and stirring continued for two hours. The reaction mixture was then poured into ether (200 ml) and aqueous citric acid solution (200 ml, 20%). The organic layer was separated, dried (MgSO4) and evaporated. The crude product was purified by column chromatography on silica gel eluted with dichloromethane: hexane (1:1) to provide the title compound as a pale yellow solid m.p. 227-8° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-ethynylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#C | C13H5Cl2F3N4
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 0.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Di-t-butyldicarbonate | 0.45 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | 200 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 3-Cyano-5-di-(t-butoxycarbonyl)amino-1-(2,6-dichloro-4-trifluoromethlphenyl)-4-ethynyipyrazole | C(#N)C1=NN(C(=C1C#C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C23H21Cl2F3N4O4
